US03974157
Preparation of 2-(3,4-Dimethoxyphenyl)-1-(2-dimethylamino-1-methylethyl)cyclohexyl acetate hydrochloride.
The procedure of Example I(c) is followed using 6.5 ml acetyl chloride and 11.5 g 2-(3,4-Dimethoxyphenyl)-1-(2-dimethylamino-1-methylethyl)cyclohexanol and a reaction time of 6 hours to give 9.5 g. crude HCl salt which is dissolved in 50 ml isopropanol and diluted with 440 ml tetrahydrofuran and 60 ml ether to give 7.1 g product, m. 200°.

reactant | acetyl chloride | 6.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-(3,4-Dimethoxyphenyl)-1-(2-dimethylamino-1-methylethyl)cyclohexanol | 11.5 g | COC=1C=C(C=CC1OC)C1C(CCCC1)(O)C(CN(C)C)C | C19H31NO3
reactant | HCl | Cl | ClH
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 440 ml | O1CCCC1 | C4H8O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 2-(3,4-Dimethoxyphenyl)-1-(2-dimethylamino-1-methylethyl)cyclohexyl acetate hydrochloride | 7.1 g | Cl.C(C)(=O)OC1(C(CCCC1)C1=CC(=C(C=C1)OC)OC)C(CN(C)C)C | InChI=1S/C21H33NO4.ClH/c1-15(14-22(3)4)21(26-16(2)23)12-8-7-9-18(21)17-10-11-19(24-5)20(13-17)25-6;/h10-11,13,15,18H,7-9,12,14H2,1-6H3;1H
